US07098226B2
t-Butyl 3-[N-[2-(1-adamantyl)ethyl]amino]propionate hydrochloride (Intermediate No. 4-1)
2-(1-Adamantyl)ethylamine hydrochloride (1.0 g, 4.6 mmol) was dissolved in ethanol (10 ml), and triethylamine (0.65 ml, 4.6 mmol) and t-butyl acrylate (0.75 ml, 5.1 mmol) were added to the solution under ice-cooling. Then, the temperature was raised to room temperature, and the mixture was stirred overnight. The reaction mixture was concentrated under reduced pressure, a 1 N aqueous sodium hydroxide solution (30 ml) and ethyl acetate (50 ml) were added to the residue, and layers were separated. The ethyl acetate layer was washed with water (50 ml) and a saturated aqueous sodium chloride solution (50 ml) successively and dried over anhydrous magnesium sulfate. The ethyl acetate layer was concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography. The resulting oily matter (0.50 g, 1.6 mmol) was dissolved in diethyl ether (20 ml), and a 4 N solution of hydrogen chloride in ethyl acetate (1.0 ml, 4.0 mmol) was added thereto to precipitate a solid. This solid was filtered off with diethyl ether to give 0.33 g (23%) of the titled compound.

reactant | 2-(1-Adamantyl)ethylamine hydrochloride | 4.6 mmol, 1.0 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCN
reactant | triethylamine | 4.6 mmol, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl acrylate | 5.1 mmol, 0.75 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 4.0 mmol, 1.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | t-Butyl 3-[N-[2-(1-adamantyl)ethyl]amino]propionate hydrochloride | 0.33 g, 23% | Cl.C12(CC3CC(CC(C1)C3)C2)CCNCCC(=O)OC(C)(C)C | InChI=1S/C19H33NO2.ClH/c1-18(2,3)22-17(21)4-6-20-7-5-19-11-14-8-15(12-19)10-16(9-14)13-19;/h14-16,20H,4-13H2,1-3H3;1H
